US05338739
3-{1-[2-(1,3-Dihydro-1,3-dioxo-2H-isoindol-2-yl)ethyl]-2-pyrrolidinyl}phenyl methylcarbamate
To a solution of 2-{2-[2-(3-hydroxyphenyl)-1-pyrrolidinyl]ethyl}-1H-isoindole- 1,3(2H)dione (0.71 g) in dry tetrahydrofuran (35 ml) was added methyl isocyanate (0.13 ml) followed by milled potassium carbonate (0.38 g) at ambient temperature, under nitrogen. The reaction mixture was stirred for 45 mins, filtered through a pad of celite, and the filter cake was washed with ethyl acetate. The combined filtrates were concentrated, and the residue was triturated with petroleum ether. The residue was purified by flash column chromatography (silica gel, 1:1 ethyl acetate/heptane). The appropriate fractions were collected and concentrated to afford 0.78 g (94%) of product. Recrystallization from dichloromethane/petroleum ether gave the analytical sample, mp 96°-98° C.

reactant | 2-{2-[2-(3-hydroxyphenyl)-1-pyrrolidinyl]ethyl}-1H-isoindole- 1,3(2H)dione | 0.71 g | OC=1C=C(C=CC1)C1N(CCC1)CCN1C(C2=CC=CC=C2C1=O)=O | C20H20N2O3
reactant | methyl isocyanate | 0.13 ml | CN=C=O | C2H3NO
reactant | potassium carbonate | 0.38 g | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
product | 3-{1-[2-(1,3-Dihydro-1,3-dioxo-2H-isoindol-2-yl)ethyl]-2-pyrrolidinyl}phenyl methylcarbamate | 0.78 g, 94% | CNC(OC1=CC(=CC=C1)C1N(CCC1)CCN1C(C2=CC=CC=C2C1=O)=O)=O | C22H23N3O4
